US09388176B2
3-iodobenzoic acid tert-butyl ester
To a solution of 3-iodobenzoic acid (50 g, 0.2 mol) in N,N-dimethylformamide (250 mL) was added solid 1,1′-carbonyldiimidazole (32.4 g, 0.2 mol) over 15 min. The resulting mixture was heated at 40° C. for 1 hr, then was added tert-butyl alcohol (29.6 g, 0.4 mol) and 1,8-diazabicyclo[5,4,0]undec-7-ene (30.4 g, 0.2 mol) and heated at 40° C. overnight. The reaction was cooled to room temperature, diluted with water (500 mL) and extracted with hexane (2×500 mL). The combined organic layers were washed with water (2×400 mL), brine (250 mL), dried over anhydrous magnesium sulfate (15 g), filtered and concentrated under reduced pressure to give the title compound (56 g, 92%) as an oil. NMR 60 MHz, (CDCl3), δ 8.3 (m, 1H), 7.8 (m, 2H), 7.0 (m, 1H), 1.6 (s, 9H).

reactant | 3-iodobenzoic acid | 0.2 mol, 50 g | IC=1C=C(C(=O)O)C=CC1 | C7H5IO2
reactant | 1,1′-carbonyldiimidazole | 0.2 mol, 32.4 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | tert-butyl alcohol | 0.4 mol, 29.6 g | C(C)(C)(C)O | C4H10O
reactant | 1,8-diazabicyclo[5,4,0]undec-7-ene | 0.2 mol, 30.4 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | N,N-dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
solvent | water | 500 mL | O | H2O
product | 3-iodobenzoic acid tert-butyl ester | 56 g, 92% | C(C)(C)(C)OC(C1=CC(=CC=C1)I)=O | C11H13IO2
